US05789607
A 3-L three-necked flask equipped with a mechanical stirrer was charged with 114.5 g (296 mmol) of (1α,3β)-1,3-bis (acetyloxy)androsta-5,7-dien-17-one, a known compound, 586 mL of methanol, and 29 mL of 25% sodium methoxide in methanol. After stirring at room temperature for 20 hr, the reaction was quenched by the addition of 7.4 mL of acetic acid. Then, 880 mL of water was added dropwise over 1 h, and the mixture was stirred for another hour and then stored in a refrigerator overnight. The precipitate was filtered and washed with 3×200 mL of methanol:water (1:2). The brown solid was dried by suction for 1 hr and then under high vacuum to afford 60.1 g of (1α,3β)-1,3-dihydroxyandrosta-5,7-dien-17-one.

reactant | (1α,3β)-1,3-bis (acetyloxy)androsta-5,7-dien-17-one | 296 mmol, 114.5 g | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)OC(C)=O | C23H30O5
reactant | sodium methoxide | 29 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 586 mL | CO | CH4O
product | (1α,3β)-1,3-dihydroxyandrosta-5,7-dien-17-one | 60.1 g | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)O | C19H26O3
